US05300509
A mixture of 4-ethoxy-5-(2-furanylcarbonyl)amino-6-hydroxy-2-methylpyrimidine (2.07 g, 7.87 mM), phosphorus oxychloride (30 ml) and dimethylaniline (1.5 ml, 11.7 mM) was heated at reflux for one hour. After cooling, the excess phosphorus oxychloride was removed by distillation under reduced pressure. Ethanol was then added, and the mixture partitioned between methylene chloride and water. The organic layer was separated, washed with sodium bicarbonate, water, dilute hydrochloric acid, water, and dried. The solvent was then removed by distillation under reduced pressure. Ethanol (10 ml) was added and the solid filtered off. This solid was further purified by flash column chromatography eluting with ethyl acetate/hexane (1:3). There was thus produced 7-ethoxy-5-methyl-2-(2-furyl)-oxazolo[5,4-d]pyrimidine (1.49 g, 77% yield); m.p. 104°-105.5° C.

reactant | 4-ethoxy-5-(2-furanylcarbonyl)amino-6-hydroxy-2-methylpyrimidine | 7.87 mM, 2.07 g | C(C)OC1=NC(=NC(=C1NC(=O)C=1OC=CC1)O)C | C12H13N3O4
reactant | dimethylaniline | 11.7 mM, 1.5 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-ethoxy-5-methyl-2-(2-furyl)-oxazolo[5,4-d]pyrimidine | 1.49 g, 77% yield | C(C)OC=1C2=C(N=C(N1)C)OC(=N2)C=2OC=CC2 | C12H11N3O3
